US08071807B2
Step 1: [3-(4-Bromo-2-tert-butylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 15, Step 5, using the following starting materials: [3-(4-bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and 2-methyl-2-propanethiol.

reactant | [3-(4-bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CBr)=O | C18H18Br2O4
reactant | 2-methyl-2-propanethiol | CC(C)(C)S | C4H10S
product | [3-(4-Bromo-2-tert-butylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CSC(C)(C)C)=O | C22H27BrO4S
